US08304557B2
A mixture of N-{5-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]amino}-1,6-dihydropyridin-3-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (2.34 g, 4.27 mmol), trifluoroacetic anhydride (15 mL) and dichloromethane (20 mL) was stirred at room temperature for 5 hr. The reaction solution was concentrated under reduced pressure, 1N aqueous sodium hydroxide solution (20 mL) and ethanol (20 mL) were added to the residue and the mixture was stirred at room temperature for 1 hr. 8N Aqueous sodium hydroxide solution (4 mL) was further added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane to give N-{5-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (1.10 g, 68%) as a white solid. To a solution of N-{5-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (1.10 g, 2.92 mmol) thus-obtained and triethylamine (1.21 mL, 8.76 mmol) in tetrahydrofuran (15 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (345 μL, 3.80 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=70/30→40/100) and recrystallized from ethyl acetate-hexane to give the title compound (863 mg, 60%) as a white solid.

reactant | N-{5-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]amino}-1,6-dihydropyridin-3-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 4.27 mmol, 2.34 g | NC(CN1C=C(C=CC1NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)C)=O | C27H30N6O5S
reactant | trifluoroacetic anhydride | 15 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-{5-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.10 g, 68% | NC=1N=C2N(C=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1 | C20H20N6O2
